US07846960B2
(4-Mercapto-phenyl)-acetic Acid Methyl Ester
To an ambient temperature solution of 4-Mercaptophenylacetic acid (5.0 g, 29.72 mmol) in MeOH (250 mL) is added sulfuric acid (1.25 mL). The reaction mixture is stirred at room temperature overnight. The reaction is concentrated and the residue is partitioned between Et2O and water. The aqueous layer is extracted with Et2O and the combined organic layers are washed with brine, dried (MgSO4), filtered, concentrated, and chromatographed (0% to 30% EtOAC/Hex) to yield the title compound (3.69 g, 68%). 1H NMR (400 MHz, CDCl3) δ 7.21 (d, 2H, J=7.9 Hz), 7.12 (d, 2H, J=8.4 Hz), 3.66 (s, 3H), 3.54 (s, 2H).

reactant | 4-Mercaptophenylacetic acid | 29.72 mmol, 5.0 g | SC1=CC=C(C=C1)CC(=O)O | C8H8O2S
reactant | sulfuric acid | 1.25 mL | S(O)(O)(=O)=O | H2O4S
reactant | MeOH | 250 mL | CO | CH4O
product | (4-Mercapto-phenyl)-acetic Acid Methyl Ester | 3.69 g, 68% | COC(CC1=CC=C(C=C1)S)=O | C9H10O2S
